US06927036B2
Step B: 1-[(2-Cyanoethoxycarbonyl)methyl]-1-Cyclohexane Acetic Acid (5)
8.2 mL of 1.6M butyllithium was added to a −78° C. solution of 3-hydroxy-propionitrile (13.19 mmol) in 50 mL of THF. The reaction mixture was warmed to 30° C. and stirred for 30 minutes. Then, a solution of 1,1-cyclohexanediacetic anhydride (10.99 mmol) in 10 mL of THF was added dropwise. The reaction mixture was warmed to room temperature over a period of one hour and stirred at room temperature with monitoring by TLC. When the reaction was judged complete, the reaction mixture was quenched with saturated ammonium chloride solution and THF was removed under reduced pressure. The aqueous layer was extracted with ethyl acetate, washed with brine and dried over Na2SO4. After concentration in vacuo the residue was purified on silica gel (5% methanol in dichloromethane) to afford 2.64 g (95%) of the title compound. 1H NMR (CDCl3): δ 4.28 (2H, t, J=6.4 Hz); 2.71 (2H, t, J=6.4 Hz); 2.61 (4H, m); 1.52-1.42 (10H, m).

reactant | butyllithium | 1.6M, 8.2 mL | C(CCC)[Li]
reactant | 3-hydroxy-propionitrile | 13.19 mmol | OCCC#N | C3H5NO
reactant | 1,1-cyclohexanediacetic anhydride | 10.99 mmol | C12(CCCCC1)CC(=O)OC(C2)=O | C10H14O3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-[(2-Cyanoethoxycarbonyl)methyl]-1-Cyclohexane Acetic Acid | 2.64 g, 95% | C(#N)CCOC(=O)CC1(CCCCC1)CC(=O)O | C13H19NO4
